US06706748B2
To a solution of 1-(3,4-dichloro-5-isothiazolyl)-3-(4-ethoxymethoxyphenyl)-1,3-propanedione (1.20 g) in a mixture of isopropanol (20 ml) and tetrahydrofuran (20 ml) concentrated hydrochloric acid (3.40 g) was added at room temperature and the mixture was stirred for 12 hours. After distilling off the solvent under reduced pressure, the residue was purified by silica gel column chromatography (eluent hexane:ethyl acetate=50:50) to obtain 1-(3,4-dichloro-5-isothiazolyl)-3-(4-hydroxyphenyl)-1,3-propanedione (0.90 g). mp 224-227° C.

reactant | 1-(3,4-dichloro-5-isothiazolyl)-3-(4-ethoxymethoxyphenyl)-1,3-propanedione | 1.20 g | ClC1=NSC(=C1Cl)C(CC(=O)C1=CC=C(C=C1)OCOCC)=O | C15H13Cl2NO4S
solvent | isopropanol | 20 ml | C(C)(C)O | C3H8O
solvent | tetrahydrofuran | 20 ml, 3.40 g | O1CCCC1 | C4H8O
product | 1-(3,4-dichloro-5-isothiazolyl)-3-(4-hydroxyphenyl)-1,3-propanedione | 0.90 g | ClC1=NSC(=C1Cl)C(CC(=O)C1=CC=C(C=C1)O)=O | C12H7Cl2NO3S
